US07902194B2
(6-Amino-pyridin-3-yl)-morpholin-4-yl-methanone (2.921 g, 14.11 mmol) was suspended in 50 mL dimethylformamide and cooled to 0° C. Sodium hydride 60% suspension in mineral oil (847 mg, 21.2 mmol) was added. This was stirred at room temperature for 30 minutes and was cooled to 0° C. 4,6-Dichloro-2-methyl-2H-pyridazin-3-one (1.256 g, 7.056 mmol) was added. After 2 hours, this was partitioned between saturated aqueous ammonium chloride solution and ethylacetate. The ethylacetate layer was dried over anhydrous MgSO4, concentrated in vacuo, and purified by flash chromatography (2% MeOH/CH2Cl2) to yield 6-Chloro-2-methyl-4-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-2H-pyridazin-3-one (732 mg, 2.09 mmol). MS (ESI) 350.1 (M+H)+.

reactant | (6-Amino-pyridin-3-yl)-morpholin-4-yl-methanone | 14.11 mmol, 2.921 g | NC1=CC=C(C=N1)C(=O)N1CCOCC1 | C10H13N3O2
reactant | Sodium hydride | [H-].[Na+]
reactant | 4,6-Dichloro-2-methyl-2H-pyridazin-3-one | 7.056 mmol, 1.256 g | ClC=1C(N(N=C(C1)Cl)C)=O | C5H4Cl2N2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-2-methyl-4-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-2H-pyridazin-3-one | 2.09 mmol, 732 mg | ClC=1C=C(C(N(N1)C)=O)NC1=NC=C(C=C1)C(=O)N1CCOCC1 | C15H16ClN5O3
